US06787619B2
Ethylene/1-octene gas phase polymerization
100 g of a polypropylene having I.V.=1.49 (dL/g), a poured density of 0.363 (g/cc) and a porosity by mercury of 0.375 cc/g, were charged into a 4.2 L reactor through a hole in the ceiling of the reactor, under propane atmosphere (pressure=1 bar), at room temperature, without any stirring. 250 g of propane were added and than temperature was brought to 40° C. In the meantime the 20 mg of metallocene, TIOA, and MAO (Al/Zr=200 mol/mol; MAO/TIOA: 1:5) were dissolved in an amount of toluene such that a total volume of 10 ml was reached, and stirred at room temperature for 10 minutes. The catalyst solution was then injected into the reactor by a little nitrogen overpressure. The suspension in the reactor was stirred at 40° C. for 10 minutes. The liquids present in the reactor were then flashed. 25 g of ethylene and 4.20 g of 1-octene were charged in the reactor, while temperature was brought to 75° C. The final pressure was 6 bar-g. During the polymerization reaction, the pressure was maintained constant by continuously feeding ethylene. During the polymerization reaction a 50 vol. % solution of 1-octene in pentane was continuously added dropwise. After the period of time indicated in table 8 the polymerization was stopped by quickly degassing the monomers. The polymer was collected and plunged in 800 mL of methanol, then filtered off and dried in vacuum at 60° C. for 2 hours.

reactant | polypropylene | 100 g | C(C(C)[*:2])[*:1]
reactant | propane | 250 g | CCC | C3H8
reactant | ethylene | 25 g | C=C | C2H4
reactant | 1-octene | 4.20 g | C=CCCCCCC | C8H16
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pentane | CCCCC | C5H12
catalyst | mercury | [Hg] | Hg
product | Ethylene/1-octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
